US08207164B2
n) (2R,5R)-5-(2-Fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
To a solution of (2R,5R)-5-(2-fluoro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (1.035 g, 3.57 mmol) in H2SO4 (6 ml) was added in portions KNO3 (0.379 g, 3.74 mmol) under ice-water cooling. The reaction mixture was stirred for 2 h at 25° C., diluted with water and basified with K2CO3 under cooling. The product was extracted with EtOAc. Combined extracts were washed with saturated NaHCO3 solution and brine, dried over MgSO4, filtered and concentrated. Purification via chromatography on silica gel (hexane-EtOAc 4:1 to 1:1 containing 0.05% NEt3) gave the title compound as a light yellow oil: TLC (hexane-EtOAc 1:1): Rf=0.50; HPLC RtH5=0.749 min; ESIMS: 336 [(M+H)+]; 1H NMR (360 MHz, CDCl3): δ 8.48 (dd, 1H), 8.14 (m, 1H), 7.15 (dd, 1H), 4.20 (br s, 2H), 4.04 (dd, 1H), 3.91 (dd, 1H), 1.54 (s, 3H), 1.49 (s, 3H).

reactant | (2R,5R)-5-(2-fluoro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 3.57 mmol, 1.035 g | FC1=C(C=CC=C1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C | C13H14F4N2O
reactant | KNO3 | 3.74 mmol, 0.379 g | [N+](=O)([O-])[O-].[K+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | H2SO4 | 6 ml | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | (2R,5R)-5-(2-Fluoro-5-nitro-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | FC1=C(C=C(C=C1)[N+](=O)[O-])[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C | C13H13F4N3O3
